* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1619.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N001 12µ
M§Q1 N001 N003 N006 N006 Si9804DY
V1 IN 0 3.3
C1 N005 0 150p
C2 N004 0 .015µ
R1 N006 0 14m
R2 N002 0 12.4K
R3 OUT N002 37.4K
R4 N005 N004 25K
C3 OUT 0 .1µ
C5 OUT 0 440µ Rser=0.065
X§U1 IN N002 N005 0 N006 N003 OUT IN LT1619
D1 N001 OUT MBR735
Rload OUT 0 3
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 4m startup
.lib LT1619.sub
.backanno
.end
